* C:\Users\DaveW\Desktop\Universitat\GITHUB\Design-Tools\Projecte\Projecte_Neteja_Parabrises\Simulacions\Regulador\Regulador.asc
VBAT VBAT 0 {V}
C1 N001 0 1µ
C2 N001 0 100n
C3 VCC 0 100n
C4 VCC 0 1µ
D1 VBAT N001 1N914
D2 0 N001 BZX84C15L
XU1 0 VCC N001 LT1117-5
.model D D
.lib C:\Users\DaveW\Documents\LTspiceXVII\lib\cmp\standard.dio
.step param V list 9 10 11 12 13 14 15 16
.tran 1s
.lib LT1117.lib
.backanno
.end
